US08431607B2
2-(3-(4-(4-chlorophenoxy)phenyl)-2-oxo-4-(3-(trifluoromethyl)phenyl)imidazolidin-1-yl)ethyl carbamate
To a solution of 3-(4-(4-chlorophenoxy)phenyl)-1-(2-hydroxyethyl)-4-(3-(trifluoromethyl)phenyl)imidazolidin-2-one (10.0 mg, 0.021 mmol) in DCM (0.3 mL) are added sodium cyanate (5.5 mg, 0.084 mmol) and TFA (6.46 μL, 0.084 mmol). The mixture is stirred at room temperature overnight before removal of the solvent. The residue is purified by preparatory TLC to provide the title compound; HPLC-MS calculated for C25H21ClF3N3O4 (M+H+) 520.1, found 520.1.

reactant | 3-(4-(4-chlorophenoxy)phenyl)-1-(2-hydroxyethyl)-4-(3-(trifluoromethyl)phenyl)imidazolidin-2-one | 0.021 mmol, 10.0 mg | ClC1=CC=C(OC2=CC=C(C=C2)N2C(N(CC2C2=CC(=CC=C2)C(F)(F)F)CCO)=O)C=C1 | C24H20ClF3N2O3
reactant | sodium cyanate | 0.084 mmol, 5.5 mg | [O-]C#N.[Na+]
reactant | TFA | 0.084 mmol, 6.46 μL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.3 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-(4-(4-chlorophenoxy)phenyl)-2-oxo-4-(3-(trifluoromethyl)phenyl)imidazolidin-1-yl)ethyl carbamate | C(N)(OCCN1C(N(C(C1)C1=CC(=CC=C1)C(F)(F)F)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)=O)=O | C25H21ClF3N3O4
